US07446114B2
i. Preparation of 1-isopropyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid {(1S, 3R, 5R)-{8-[2-(1,1-dioxotetrahydro-1λ6-thiophen-3-ylamino)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-amide
1,1-dioxotetrahydro-1λ6-thiophen-3-ylamine trifluoroacetic acid salt (500 mg; 2 mmol), N,N′-diisopropylethylamine (0.35 mL), and sodium triacetoxyborohydride (422 mg; 2 mmol) was added to a vial containing 10 mL of dichloromethane. The mixture was stirred for 5 minutes prior to the addition of 1-isopropyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid {(1S, 3R, 5R)-8-[(2,2-dihydroxy)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}amide (0.427 g). The final mixture was stirred for 1 h, at which time the reaction was judged to be complete based on HPLC and mass spectrometric analysis. Water (20 mL) was slowly added to quench the remaining reducing agent. The mixture was diluted with 100 mL of dichloromethane, and shaken in a funnel before collecting the organic layer. The organic layer was washed with 1M NaOH (40 mL) and brine (50 mL), dried over MgSO4, and evaporated to yield the title intermediate as a colorless solid. This crude product was used in the next step without further treatment.

reactant | 1,1-dioxotetrahydro-1λ6-thiophen-3-ylamine trifluoroacetic acid salt | 2 mmol, 500 mg | FC(C(=O)O)(F)F.O=S1(CC(CC1)N)=O
reactant | N,N′-diisopropylethylamine | 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium triacetoxyborohydride | 2 mmol, 422 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | 1-isopropyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)O)=O | C13H13NO3
